US07834194B2
3-(3-Chloro-benzo[b]thiophen-2-ylmethyl)-1-(cis-4-hydroxy-cyclohexyl)-pyrrolidin-2-one
Charge a flask with cis-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one (0.50 g, 1.68 mmol) (1.0 eq), dissolve with THF (0.2 M) and cool to −78° C. Add LDA (1.1 to 1.5 eq) and stir at −78° C. for 5 minutes. Add 2-bromomethyl-3-chloro-benzo[b]thiophene (U.S. Pat. No. 4,939,140) (0.53 g, 2.02 mmol) and warm to room temperature overnight. Dilute with methanol (0.2 M) and add concentrated HCl (10 eq.) and stir at room temperature. Pour into water after reaction complete by HPLC and extract with methylene chloride, dry over sodium sulfate, filter and concentrate in vacuo. Purification of the residue over silica gel (20% hexane in ethyl acetate) affords the title compound as a white powder (0.44 g, 71%): MS (APCI-pos mode) m/z (rel intensity) 364.1 (100), 366.1 (40).

reactant | cis-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one | 1.68 mmol, 0.50 g, 1.0 eq | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(CCC1)=O)(C)C | C16H31NO2Si
reactant | LDA | 1.1 to 1.5 eq | [Li+].CC(C)[N-]C(C)C
reactant | 2-bromomethyl-3-chloro-benzo[b]thiophene | BrCC1=C(C2=C(S1)C=CC=C2)Cl | C9H6BrClS
reactant | HCl | 10 eq. | Cl | ClH
solvent | methanol | 0.2 M | CO | CH4O
solvent | water | O | H2O
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | 3-(3-Chloro-benzo[b]thiophen-2-ylmethyl)-1-(cis-4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 0.44 g, 71% | ClC=1C2=C(SC1CC1C(N(CC1)[C@@H]1CC[C@@H](CC1)O)=O)C=CC=C2 | C19H22ClNO2S
